US07179801B2
To a suspension of lithium aluminum hydride (1.8 g) in tetrahydrofuran (200 ml) was added 3-(1-trityl-2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)propanamide (10 g) at room temperature. The mixture was stirred at room temperature for 2.5 hours. After cooling on an ice bath, sodium fluoride (7.95 g) and water (3.4 ml) were added to the reaction mixture. The insoluble materials were removed by filtration. To the filtrate was added ethyl formate, and the mixture was refluxed for 24 hours. After evaporation of the solvent in vacuo, the residue was triturated with diisopropyl ether and dried in vacuo to give 3-(1-trityl-2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)propylformamide (6.62 g).

reactant | lithium aluminum hydride | 1.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(1-trityl-2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)propanamide | 10 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN2N=CC(=C21)CCC(=O)N | C27H26N4O
reactant | sodium fluoride | 7.95 g | [F-].[Na+]
reactant | water | 3.4 ml | O | H2O
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-(1-trityl-2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)propylformamide | 6.62 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN2N=CC(=C21)CCCNC=O | C28H28N4O
